US04831151
7.92 g (171 mmol) of sodium hydride (55-60 percent dispersion in oil) are washed with absolute tetrahydrofuran. A solution of 13.2 g (83 mmol) of 2-methyl-4-phenylimidazole in 356 ml of N-methylpyrrolidone is added dropwise at 0°. The mixture is subsequently stirred at room temperature until the evolution of gas is no longer observed. 39.6 g (171 mmol) of O-diphenylphosphinylhydroxylamine are added portionwise thereto and the mixture is stirred for a further 18 hours. 400 ml of water are added thereto. The mixture is stirred for 1 hour and extracted four times with 1300 ml of methylene chloride each time. The extract is dried over sodium sulphate and evaporated. The residue is place on a column loaded with 700 g of silica gel (particle size 0.063-0.200 mm) amnd the product is eluted with methylene chloride/ethanol (98:2). The oil (N-amino-2-methyl-4-phenylimidazole) obtained after concentration is dissolved with 1150 ml of methylene chloride and treated with 13.94 g (60 mmol) of O-diphenylphosphinylhydroxylamine. After stirring for 3 days a further 13.94 g (60 mmol) of O-diphenylphosphinylhydroxylamine are added thereto and the mixture is stirred for a further 24 hours. The mixture is concentrated and the residue is placed on a column loaded with Amberlite IRA 400 (chloride). Elution is carried out with water. The aqueous solution is evaporated and the residue is placed on a column loaded with 300 g of silica gel (particle size 0.063-0.200 mm). The product is eluted with methylene chloride/ethanol (1:9). From the eluate there is obtained 1,3-diamino-2-methyl-4-phenylimidazolium chloride of melting point 162°-163°.

reactant | sodium hydride | 171 mmol, 7.92 g | [H-].[Na+]
reactant | 2-methyl-4-phenylimidazole | 83 mmol, 13.2 g | CC=1NC=C(N1)C1=CC=CC=C1 | C10H10N2
reactant | O-diphenylphosphinylhydroxylamine | 171 mmol, 39.6 g | C1(=CC=CC=C1)P(=O)(ON)C1=CC=CC=C1 | C12H12NO2P
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidone | 356 ml | CN1C(CCC1)=O | C5H9NO
product | N-amino-2-methyl-4-phenylimidazole | NN1C(=NC(=C1)C1=CC=CC=C1)C | C10H11N3
